US05536722
2-Chloro-4-(6,7-dimethoxy-1,2,3,4-tetrahydroisoquinolin-2-yl)-6-(2-[3,4-dimethoxyphenyl]ethylamino)-1,3,5-triazine
2,4-Dichloro-6-(6,7-dimethoxy-1,2,3,4-tetrahydroisoquinolin-2-yl)-l,3,5-triazine (3.08 g, 9.03 mM) in dioxane (50 mL) and aqueous sodium carbonate solution (50 mL, 10% solution) was treated with 2-(3,4-dimethoxyphenyl)ethylamine (1.64 g, 9.03 mM). After stirring 18 hrs at ambient temperature the mixture was extracted with methylene chloride (3×75 mL). Filtration through a cotton plug and concentration provided a solid which was recrystallized from methylene chloride/ethanol to provide 3.52 g, (80%), mp=152°-153° C.

reactant | 2,4-Dichloro-6-(6,7-dimethoxy-1,2,3,4-tetrahydroisoquinolin-2-yl)-l,3,5-triazine | 9.03 mM, 3.08 g | ClC1=NC(=NC(=N1)Cl)N1CC2=CC(=C(C=C2CC1)OC)OC | C14H14Cl2N4O2
reactant | 2-(3,4-dimethoxyphenyl)ethylamine | 9.03 mM, 1.64 g | COC=1C=C(C=CC1OC)CCN | C10H15NO2
reactant | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | sodium carbonate | 50 mL | C([O-])([O-])=O.[Na+].[Na+]
product | 2-Chloro-4-(6,7-dimethoxy-1,2,3,4-tetrahydroisoquinolin-2-yl)-6-(2-[3,4-dimethoxyphenyl]ethylamino)-1,3,5-triazine | ClC1=NC(=NC(=N1)N1CC2=CC(=C(C=C2CC1)OC)OC)NCCC1=CC(=C(C=C1)OC)OC | C24H28ClN5O4
